US05053422
C) Isobutyl 4-oxobutanoate
To a solution of isobutyl (E)-4-oxo-2-butenoate (97 g, 0.62 mol) in 96% ethanol (800 ml), 5% palladium on charcoal (9.7 g) was added and hydrogen was bubbled at 5°-10° C. and at atmospheric pressure for 20 hours. Removal of the catalyst and evaporation of the solvent gave 97.6 g (99%) of the title compound; Rf=0.41 (silica gel plates, eluent: cyclohexane-ethyl acetate 6:4). NMR (CDCl3): deltaH =2.5 (d, J=1 Hz, 1H, CHO); 3.85 (d, J=6 Hz, 2H, COOCH2); 2.80-2.40 (c.a., 4H, CH2CH2CO); 2.10-1.70 (c.a., 1H, CH2CHMe2); 0.90 (d, J=6 Hz, 6H, CH3). MS (E.I., 70 eV, 1.5 mA) m/z=103 (M--C3H3O)+, 85 (M--C3H5O2)+, 57 (M--C4H5O3)+.

reactant | isobutyl (E)-4-oxo-2-butenoate | 0.62 mol, 97 g | O=C/C=C/C(=O)OCC(C)C | C8H12O3
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 9.7 g | [Pd] | Pd
product | Isobutyl 4-oxobutanoate | 97.6 g, 99% | O=CCCC(=O)OCC(C)C | C8H14O3
